US05633392
17-Methylenestra-1,3,5(10)-trien-3-yl methyl ether, 14
To a stirred suspension of 17-methylenestra-1,3,5(10)-trien-3-ol (5.37 g, 20.0 mmol) and potassium carbonate (50.82 g, 0.3678 mol) at reflux in 90% ethanol (500 mL) was added dimethyl sulfate (5.0 mL, 53 mmol). After 1/2 h reflux additional dimethyl sulfate (36 mL, 0.38 mol, in three 12 mL aliquots) was added over the period of 1 h. See FIG. 17. The reaction was refluxed a further hour, following which 360 mL of water were added and the mixture was placed in the refrigerator overnight. The resulting suspension was filtered and washed with 80 mL of 60% methanol+three 80 mL portions of 5% (w/w) sodium hydroxide+three 80 mL portions of water. The residue was recrystallized from aqueous methanol to give white crystals (3.88 g, 13.7 mmol, 69%), m.p. 59°-62° C. TLC (20% ethyl acetate/hexanes on silica gel) showed product (Rf 0.63) with trace contaminants at Rf 0.37 and at the origin. (NA-1994A-247)

reactant | 17-methylenestra-1,3,5(10)-trien-3-ol | 20.0 mmol, 5.37 g | C=C1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)O | C19H24O
reactant | potassium carbonate | 0.3678 mol, 50.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 53 mmol, 5.0 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | dimethyl sulfate | 0.38 mol, 36 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | 360 mL | O | H2O
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 17-Methylenestra-1,3,5(10)-trien-3-yl methyl ether | 13.7 mmol, 3.88 g, 69% | COC1=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=C | C20H26O
